### PR TITLE
[Merged by Bors] - feat(Equiv) : sigmas indexed by products are sigmas; pinning down the base of a sigma gives the fiber

### PR DESCRIPTION
**Pull request by robertmaxton42**
Add some convenience defs for working with sigma types that appear frequently when working with hom-like objects:

- `Equiv.sigmaAssocProd`, for sigmas of the form `(a : α) × (b : β) × γ a b`
- `Equiv.sigmaSubtype` and `Equiv.sigmaSigmaSubtype`, for subtypes of sigmas that "cancel"

Also add a convenience lemma for moving conjugations ( $\varepsilon\^{-1} f \varepsilon$ ) from one side of an equation of functions to the other.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Sum.lean [hunk 1]
```diff
@@ -341,6 +341,16 @@ def sumSigmaDistrib {α β} (t : α ⊕ β → Type*) :
   by rintro ⟨x|x,y⟩ <;> simp,
   by rintro (⟨x,y⟩|⟨x,y⟩) <;> simp⟩
 
+/-- A subtype of a sigma which pins down the base of the sigma is equivalent to
+the respective fiber. -/
+@[simps]
+def sigmaSubtype {α : Type*} {β : α → Type*} (a : α) :
```
Comment (fpvandoorn) [inline Mathlib/Logic/Equiv/Sum.lean:347]: This is in the wrong file. Probably should be in `Basic` as well.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 2]
```diff
@@ -900,6 +933,12 @@ end
   left_inv f := rfl
   right_inv f := rfl
 
+lemma eq_conj {α α' β β' : Type*} (ε₁ : α ≃ α') (ε₂ : β' ≃ β)
```
Comment (fpvandoorn) [inline Mathlib/Logic/Equiv/Basic.lean:936]:
```suggestion
lemma eq_conj (ε₁ : α ≃ α') (ε₂ : β' ≃ β)
```
This proves it for `Sort*`.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 3]
```diff
@@ -900,6 +933,12 @@ end
...
+    (f : α → β) (f' : α' → β') : f = ε₂ ∘ f' ∘ ε₁ ↔ ε₂.symm ∘ f ∘ ε₁.symm = f' := by
```
Comment (fpvandoorn) [inline Mathlib/Logic/Equiv/Basic.lean:937]: Please reverse the `Iff`

Comment (fpvandoorn) [reply Mathlib/Logic/Equiv/Basic.lean:937]: Does the proof `rw [Equiv.eq_symm_comp, Equiv.symm_comp_eq]` (or in the other order) work? I think this could be useful as a shortcut for applying both these two lemmas, so I'm happy to keep it.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 4]
```diff
@@ -429,6 +429,39 @@ def subtypePiEquivPi {β : α → Sort v} {p : ∀ a, β a → Prop} :
...
+@[simps!]
+def sigmaAssocProd {α β : Type*} {γ : α → β → Type*} :
+    (ab : α × β) × γ ab.1 ab.2 ≃ (a : α) × (b : β) × γ a b :=
+  sigmaCongrLeft' (sigmaEquivProd _ _).symm |>.trans <| sigmaAssoc γ
+
+
+/-- A subtype of a dependent triple which pins down both bases is equivalent to the
+respective fiber. -/
+@[simps! (config := {simpRhs := true})]
+def sigmaSigmaSubtype {α : Type*} {β : α → Type*} {γ : (a : α) → β a → Type*}
```
Comment (fpvandoorn) [inline Mathlib/Logic/Equiv/Basic.lean:443]: This and the next result seem very specialized. Should this be in Mathlib? What is your use-case?

**Comment by fpvandoorn** [comment]
(Please remove the `awaiting-author` label if you've addressed my comments or answered my questions.

File: Mathlib/Logic/Equiv/Basic.lean (hunk 3 above)
Comment (robertmaxton42) [reply Mathlib/Logic/Equiv/Basic.lean]: Just about; done!

File: Mathlib/Logic/Equiv/Basic.lean [hunk 5]
```diff
@@ -429,6 +429,48 @@ def subtypePiEquivPi {β : α → Sort v} {p : ∀ a, β a → Prop} :
...
+  calc {s : (a : α) × (b : β a) × γ a b // p ⟨s.1, s.2.1⟩}
+  _ ≃ _ := subtypeEquiv (p := fun ⟨a, b, c⟩ ↦ p ⟨a, b⟩) (q := (p ·.1))
+    (sigmaAssoc γ).symm fun s ↦ by simp [sigmaAssoc]
+  _ ≃ _ := subtypeSigmaEquiv _ _
+  _ ≃ _ := uniqueSigma (fun ab ↦ γ (Sigma.fst <| Subtype.val ab) (Sigma.snd <| Subtype.val ab))
+  _ ≃ γ a b := by rw [ ← show ⟨⟨a, b⟩, h⟩ = uniq.default from uniq.uniq _]
+
+/-- A specialization of `sigmaSigmaSubtype` to the case where the second base
+does not depend on the first, and the property being checked for is simple
+equality. Useful for e.g. hom-types. -/
```
Comment (fpvandoorn) [inline Mathlib/Logic/Equiv/Basic.lean:464]:
```suggestion
equality. Useful e.g. when `γ` is `Hom` inside a category. -/
```

File: Mathlib/Logic/Equiv/Basic.lean (hunk 4 above)
Comment (fpvandoorn) [reply Mathlib/Logic/Equiv/Basic.lean:452]: Ok, that seems reasonable. Are the lemmas generated by `simps` actually useful when generated from this (pretty complicated) definition?

**Review by fpvandoorn — APPROVED** [review]
Thanks. If you have addressed my remaining comments, feel free to write `bors merge` to merge this PR.

bors d+

File: Mathlib/Logic/Equiv/Basic.lean (hunk 4 above)
Comment (robertmaxton42) [reply Mathlib/Logic/Equiv/Basic.lean:452]: ... Indeed, not terribly. Thanks for the catch, I've added some manual lemmas instead.
